US04261892
Preparation of 3-[4,6-bis(tert-butylamino)-s-triazin-2-yl]-3-azabicyclo[3.2.2]nonane
3-(4,6-Dichloro-s-triazin-2-yl)-3-azabicyclo[3.2.2]nonane (8.2 g.; 0.03 mole) and 25 ml. (0.24 mole) of t-butylamine is placed in a glass liner in a bomb and then heated in an oil bath maintained at 160°-180° C. for 16 hours. After cooling, the contents of the bomb are rinsed with chloroform and water into a flask and 50 ml. of 10 N NaOH is added. The solution is then evaporated in vacuo and the aqueous solution remaining is extracted with chloroform. The combined chloroform extracts are washed with water, dried over magnesium sulfate, filtered through Magnesol® and the Magnesol® washed with chloroform. Removal of solvent in vacuo, column chromatography on silica gel and recrystallization of the pure fractions containing the more polar component from n-heptane gives 4.8 g. of fine colorless crystals, m.p. 217°-222° C.

reactant | 3-(4,6-Dichloro-s-triazin-2-yl)-3-azabicyclo[3.2.2]nonane | 0.03 mole, 8.2 g | ClC1=NC(=NC(=N1)Cl)N1CC2CCC(C1)CC2 | C11H14Cl2N4
reactant | t-butylamine | 0.24 mole | C(C)(C)(C)N | C4H11N
product | 3-[4,6-bis(tert-butylamino)-s-triazin-2-yl]-3-azabicyclo[3.2.2]nonane | C(C)(C)(C)NC1=NC(=NC(=N1)NC(C)(C)C)N1CC2CCC(C1)CC2 | C19H34N6
